US07470798B2
To a solution of 3-(6-Hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester (235 mg, 0.68 mmol) in 5 mL of dioxane was added a solution of NaOH (41 mg, 1.02 mmol) in 400 mL water. The resulting suspension was vigorously stirred for 15 h and quenched by adding 50 mL of saturated NaH2PO4 solution. The mixture was extracted with EtOAc (3×50 mL) and the organic layers were dried over Na2SO4 and concentrated. The crude product was purified by chromatography on silica gel to afford 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-propano-2H-benzo[h]chromen-2-yl)-propionic acid as a white sticky solid (184 mg). 1H-NMR (CDCl3, 300 MHz) δ (ppm): 7.71 (ws, 1 H), 6.41 (s, 1 H), 3.54 (m, 1 H), 3.38 (m, 1 H), 2.73 )m, 2 H), 2.56 (m, 2 H), 2.10-1.62 (m, 12 H), 0.95 (m, 5 H); 13C-NMR δ (ppm): 180.1, 144.0, 142.9, 132.8 128.9, 118.5, 112.7, 74.0, 34.48, 34.0, 32.0, 31.9, 31.8, 29.5, 28.7, 28.6, 26.4, 26.3, 26.0, 23.9, 23.3, 22.7, 22.3; MS (ESI) m/z: 331 (M+H+, 100%).

reactant | 3-(6-Hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester | 0.68 mmol, 235 mg | COC(CCC1(OC2=C3C(=C(C=C2CC1)O)C1CCC3C1)C)=O | C19H24O4
reactant | NaOH | 1.02 mmol, 41 mg | [OH-].[Na+]
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 400 mL | O | H2O
product | 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-propano-2H-benzo[h]chromen-2-yl)-propionic acid | 184 mg | OC=1C=C2CCC(OC2=C2C1C1CCC2CCC1)(C)CCC(=O)O | C20H26O4
